US05583233
D. (2S,3S,5S)-5-Amino-2-(N-((5-isoxazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane
A mixture of 1.54 g (5.41 mmol) of (2S,3S,5S)-2,5-diamino-1,6-diphenyl-3-hydroxyhexane and 0.673 g (5.41 mmol) of phenylboric acid in anhydrous toluene (130 mL) was heated at reflux under argon for 2 hrs with removal of H2O by a Dean-Stark trap. The resulting yellow solution was allowed to cool and the solvent was removed in vacuo to give an oil which solidified upon standing. The residue was taken up in 90 ml of THF, cooled to -40° C., and treated dropwise under Ar atmosphere over a period of 1 h with 1.11 g (3.78 mmol) of ((5-isoxazolyl)methyl)-(4-nitrophenyl)carbonate in 40 ml of THF. The solution was allowed to warm to -20° C. over the next 0.5 hr, then was stirred at 0° C. for 2.5 hrs and at room temperature for 1 hr. After removal of the solvent in vacuo, the residue was taken up in ethyl acetate (200 mL), washed sequentially with 5% aqueous K2CO3 (4×25 mL) and saturated brine (25 mL), dried over Na2SO4 and concentrated in vacuo. Silica gel chromatography of the residue using a gradient of methanol in chloroform (2%, 4%, 6%) afforded a mixture of the desired product and its regioisomer. Purification of the mixture on two consecutive 250 g SiO2 columns (deactivated with 1% isopropylamine/CH2Cl2) with a gradient of isopropylamine/CH2Cl2 (0.5%, 1%) afforded the desired compound as a sticky solid (0.730 g, 1.78 mmol, 33%): 1H NMR (DMSO-d6) δ 1.17-1.57 (m, 5H), 2.56-2.69 (m, 2H), 2.75-2.86 (m, 1H), 2.89-3.00 (m, 2H), 3.53-3.71 (m, 3H), 5.06 (s, 2H), 6.32 (d, J=2.4 Hz, 1H), 7.11-7.30 (m, 10H), 8.54 (d, J2.4 Hz, 1 H). Mass spectrum: (M+H)+ =410.

reactant | (2S,3S,5S)-2,5-diamino-1,6-diphenyl-3-hydroxyhexane | 5.41 mmol, 1.54 g | N[C@@H](CC1=CC=CC=C1)[C@H](C[C@H](CC1=CC=CC=C1)N)O | C18H24N2O
reactant | phenylboric acid | 5.41 mmol, 0.673 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | H2O | O | H2O
reactant | ((5-isoxazolyl)methyl)-(4-nitrophenyl)carbonate | 3.78 mmol, 1.11 g | C1=CC(=CC=C1[N+](=O)[O-])OC(=O)OCC2=CC=NO2 | C11H8N2O6
solvent | toluene | 130 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | (2S,3S,5S)-5-Amino-2-(N-((5-isoxazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane | N[C@H](C[C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OCC1=CC=NO1)O)CC1=CC=CC=C1 | C23H27N3O4
